*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/dig_lpe.spi
#else
.include ../../../work/xsch/dig.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-10 reltol=2e-3
.option sparse

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

* Analog supply voltage given in Volts (V)
.param AVDD = {vdda}
.csparam voltage_supply_csparam = {vdda}

* Circuit temperature given in degrees Celsius (C)
.param circuit_temperature = 27
.csparam circuit_temperature_csparam = {circuit_temperature}

* Time averaging finetuning duty cycle is given in percent (%)
.param finetuning_dutycycle = 50
.csparam finetuning_dutycycle_csparam = {finetuning_dutycycle}

.param ratio = {finetuning_dutycycle/100}

* finetuning_frequency = 2.0 MHz => finetuning_periode = 0.5 us
* finetuning_frequency = 1.0 MHz => finetuning_periode = 1.0 us
* finetuning_frequency = 0.5 MHz => finetuning_periode = 2.0 us
.param finetuning_frequency = 1
.csparam finetuning_frequency_csparam = {finetuning_frequency}

.param finetuning_frequency_mhz = {finetuning_frequency * 1MegHz}
.param finetuning_periode = {1/finetuning_frequency_mhz}
.csparam finetuning_periode_csparam = {finetuning_periode}

.param TD = 0us
.param TR = {finetuning_periode/100}
.param TF = TR
.param PER = finetuning_periode
.param PW = {PER * ratio}

.param clock_frequency = 10
.csparam clock_frequency_csparam = {clock_frequency}

.param clock_frequency_mhz = {clock_frequency * 1MegHz}
.param clock_periode = {1/clock_frequency_mhz}
.csparam clock_periode_csparam = {clock_periode}

.param TDCLK = 0us
.param TRCLK = {clock_periode/100}
.param TFCLK = TRCLK
.param PERCLK = clock_periode
.param PWCLK = {PERCLK * ratio}

* .csparam simulation_length_csparam = 100us
.csparam simulation_length_csparam = 10us

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS 0   dc 0V
VDD  VDD VSS dc {AVDD}
VSLP SLP VSS dc 0V

VCLK CLK VSS pulse(0V {AVDD} {TDCLK} {TRCLK} {TFCLK} {PWCLK} {PERCLK})
VRST RST VSS pwl 
+ 1.0us 0V 1.1us {AVDD} 9.9us {AVDD} 10.0us 0V 
+ 25.1us 0V 25.2us {AVDD} 25.4us {AVDD} 25.5us 0V 
* + 275.1us 0V 275.2us {AVDD} 285.4us {AVDD} 285.5us 0V 

* VBT  BT  VSS pulse(0V {AVDD} {TD} {TR} {TF} {PW} {PER})
Vconn0 finetuning_signal BT dc 0V

Vconn1 coarse_step1.0 B1 dc 0V
Vconn2 coarse_step1.1 B2 dc 0V
Vconn3 coarse_step1.2 B3 dc 0V
Vconn4 coarse_step1.3 B4 dc 0V
Vconn5 coarse_step1.4 B5 dc 0V
Vconn6 coarse_step1.5 B6 dc 0V
Vconn7 coarse_step1.6 B7 dc 0V
Vconn8 coarse_step1.7 B8 dc 0V
Vconn9 coarse_step2.0 B9 dc 0V
Vcon10 coarse_step2.1 B10 dc 0V
Vcon11 coarse_step2.2 B11 dc 0V
Vcon12 coarse_step2.3 B12 dc 0V
Vcon13 coarse_step2.4 B13 dc 0V
Vcon14 coarse_step2.5 B14 dc 0V
Vcon15 coarse_step2.6 B15 dc 0V

* Rconn1 VDD B1 1m 
* Rconn2 VDD B2 1m
* Rconn3 VDD B3 1m
* Rconn4 VDD B4 1m
* Rconn5 VDD B5 1m
* Rconn6 VDD B6 1m
* Rconn7 VSS B7 1m
* Rconn8 VSS B8 1m
* Rconn9 VSS B9 1m
* Rcon10 VSS B10 1m
* Rcon11 VSS B11 1m
* Rcon12 VSS B12 1m
* Rcon13 VSS B13 1m
* Rcon14 VSS B14 1m
* Rcon15 VSS B15 1m

* RSWBRANCH1 SWBRN1 VDD 1m
* RSWBRANCH2 SWBRN2 VDD 1m
* RSWBRANCH3 SWBRN3 VDD 1m

* RSWBGR1 SWBGR1 VSS 1m
* RSWBGR2 SWBGR2 VSS 1m

RSWBGR1 SWBGR1 VDD 1m
RSWBGR2 SWBGR2 VDD 1m

* RSWCAP1 SWCAP1 VDD 1m
* RSWCAP2 SWCAP2 VDD 1m
* RSWCAP3 SWCAP3 VDD 1m

RSWDRAIN1 SWDRN1 VSS 1m
RSWDRAIN2 SWDRN2 VSS 1m
RSWDRAIN3 SWDRN3 VSS 1m

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi
.include ../svinst.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
* .save all

.save 
+ v(clk) v(rst)
+ v(b1) v(b2) v(b3)  v(b4)  v(b5)  v(b6)  v(b7)
+ v(b8) v(b9) v(b10) v(b11) v(b12) v(b13) v(b14) v(b15) 
+ v(bt)
+ v(xdut.iout)
+ v(xdut.vref) v(vout)
+ v(cmp)
+ v(v1) 
+ v(xdut.v1a) v(xdut.v1b) 
+ v(v2) 
+ v(xdut.v2a) v(xdut.v2b) v(xdut.v2c)
+ v(SWBRN1) v(SWBRN2) v(SWBRN3) v(SWBGR1) v(SWBGR2) v(SWCAP1) v(SWCAP2) v(SWCAP3) v(SWDRN1) v(SWDRN2) v(SWDRN3)
+ v(xdut.x1.ctl) v(xdut.x1.ctlb) v(xdut.x1.vt)
+ v(vss) v(vdd) v(slp)
+ i(vss) i(vdd)
* + v(xdut.r1) v(xdut.r2)
* + v(xdut.x1.b1_n) v(xdut.x1.b2_n) v(xdut.x1.b3_n)  v(xdut.x1.b4_n)  v(xdut.x1.b5_n)  v(xdut.x1.b6_n)  v(xdut.x1.b7_n)
* + v(xdut.x1.b8_n) v(xdut.x1.b9_n) v(xdut.x1.b10_n) v(xdut.x1.b11_n) v(xdut.x1.b12_n) v(xdut.x1.b13_n) v(xdut.x1.b14_n) v(xdut.x1.b15_n)
* + v(xdut.x1.bt_n)
* + v(xdut.x1.pbias) v(xdut.x1.nbias) 
* + v(xdut.x1.v0) v(xdut.x1.v1) v(xdut.x1.v2) v(xdut.x1.v3) v(xdut.x1.v4) v(xdut.x1.v5) v(xdut.x1.v6) v(xdut.x1.v7)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

set vsupply = {$&voltage_supply_csparam}
set cirtemp = {$&circuit_temperature_csparam}
set finfreq = {$&finetuning_frequency_csparam}
set clkfreq = {$&clock_frequency_csparam}
set finper = {1/$finfreq}
set clkper = {1/$clkfreq}
set dcycle = {$&finetuning_dutycycle_csparam}
set simlen = {$&simulation_length_csparam}

echo "%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%"
echo "CSPARAMS:
echo "supply voltage: {$vsupply} V"
echo "circuit temperature: {$cirtemp} C"
echo "finetuning frequency {$finfreq} MHz => finetuning periode {$finper} s"
echo "clock frequency {$clkfreq} MHz => clock periode {$clkper} s"
echo "duty cycle {$dcycle} %"
echo "simulation length: {$simlen} s"
echo "%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%%"


* temperature options to choose from: -40 -20 0 27 60 90 125
* dutycycle options to choose from: 10 20 30 40 50 60 70 80 90

* -40 -35 -30 -25 -20 -15 -10 -5 0 5 10 15 20 25 30 35 40 45 50 55 60 65 70 75 80 85 90 95 100 105 110 115 120 125

set fend = .raw
foreach cirtemp 0
	foreach finfreq 1
		foreach dcycle 50
			alterparam finetuning_frequency = {$finfreq}
			alterparam finetuning_dutycycle = {$dcycle}
            
			reset
			
			option temp = $cirtemp

			* if your netlist uses derived params like ratio from dutycycle,
			* they will re-evaluate automatically as long as they are expressions,
			* for example:
			*   .param finper = {1/finfreq}
			*   .param ratio = {dcycle/100}

			let finper = {1/$finfreq}

			echo ------------------------------------------------------------
			echo "view and pvt corner: {cicname}_bgr"
			echo "supply voltage: {$vsupply} V"
			echo "circuit temperature: {$cirtemp} C"
			echo "finetuning frequency {$finfreq} MHz => finetuning periode {$finper} s"
			echo "clock frequency {$clkfreq} MHz => clock periode {$clkper} s"
			echo "duty cycle {$dcycle} %"
			echo "simulation length: {$simlen} s"
			echo ------------------------------------------------------------

			*- Override the default digital output bridge.
			pre_set auto_bridge_d_out =
				+ ( ".model auto_dac dac_bridge(out_low = 0.0 out_high = 1.8)"
				+   "auto_bridge%d [ %s ] [ %s ] auto_dac" )

			optran 0 0 0 1ns 1us 0
			tran 10ns {$simlen}
			* tran 1ns 100us 1ps

			write {cicname}_bgr_temperature{$cirtemp}celsius_frequency{$finfreq}mhz_dutycycle{$dcycle}percent_vdd{$vsupply}volt{$fend}

			*
			* This last part used to be in tran.meas, but was moved to ensure all simulations are written to .out-files
			*

			load {cicname}_bgr_temperature{$cirtemp}celsius_frequency{$finfreq}mhz_dutycycle{$dcycle}percent_vdd{$vsupply}volt{$fend}

			let v(x1.vt) = v(xdut.x1.vt)
			let v(x1.ctl) = v(xdut.x1.ctl)
			let v(x1.ctlb) = v(xdut.x1.ctlb)

			let v(v1a) = v(xdut.v1a)
			let v(v1b) = v(xdut.v1b)
			let v(v2a) = v(xdut.v2a)
			let v(v2b) = v(xdut.v2b)
			let v(v2c) = v(xdut.v2c)
			let v(vref) = v(xdut.vref)

			set fend = .out
			set wr_singlescale
			set wr_vecnames
			option numdgt = 5
			echo writing to file named {cicname}_bgr_temperature{$cirtemp}celsius_frequency{$finfreq}mhz_dutycycle{$dcycle}percent_vdd{$vsupply}volt{$fend}
			wrdata {cicname}_bgr_temperature{$cirtemp}celsius_frequency{$finfreq}mhz_dutycycle{$dcycle}percent_vdd{$vsupply}volt{$fend}
            + v(b1) v(b2) v(b3) v(b4) v(b5) v(b6) v(b7) 
            + v(b8) v(b9) v(b10) v(b11) v(b12) v(b13) v(b14) v(b15) 
            + v(SWBRN1) v(SWBRN2) v(SWBRN3) v(SWBGR1) v(SWBGR2) v(SWCAP1) v(SWCAP2) v(SWCAP3) v(SWDRN1) v(SWDRN2) v(SWDRN3)
            + v(bt)
			+ v(xdut.iout)
			+ v(vref) v(vout)
            + v(cmp) 
			+ v(clk) v(rst)
			+ v(v1)
			+ v(v1a) v(v1b) 
			+ v(v2) 
			+ v(v2a) v(v2b) v(v2c)
			+ v(x1.ctl) v(x1.ctlb) v(x1.vt)
			+ v(vss) v(vdd) v(slp)
			+ i(vdd) i(vss)
			+ v(cmp_sync1)
			+ v(cmp_sync2)
			+ v(cmp_rising)
			+ v(dec_cmp_rising_counter)
			+ v(dec_timeout_counter)
			+ v(dec_coarse_step_counter)
			+ v(dec_coarse_step1)
			+ v(dec_coarse_step2)
			+ v(dec_finetuning_duty_cycle)
			+ v(dec_finetuning_periode)
			+ v(dec_finetuning_counter)
			+ v(finetuning_signal)
		end
	end
end

quit

.endc

.end
